US08084470B2
303 mg (2.2 mmol) of K2CO3 were added to a solution of 500 mg (2.0 mmol) of 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide in DMF (5 ml), and stirring was carried out for 30 min at RT. 445 mg (2.0 mmol) of 1-(2-chloroethylsulfonyl)-4-fluorobenzene were then added and stirring was continued for a further 2 days at RT. The mixture was then concentrated in vacuo, the residue was taken up in EA, and 1M aqueous NaHCO3 solution was added. The phases were separated and the aqueous phase was extracted with EA. The combined organic phases were dried over MgSO4, filtered through silica gel and concentrated in vacuo. CC (DCM/EA 4:1) of the residue yielded 365 mg (0.84 mmol, 48%) of 2-[2-(4-fluorophenyl)sulfonylethylthio]-N-(2-thienylmethyl)-nicotinamide. MS: m/z 437.0 [M+H]+

reactant | K2CO3 | 2.2 mmol, 303 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide | 2.0 mmol, 500 mg | SC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C11H10N2OS2
reactant | 1-(2-chloroethylsulfonyl)-4-fluorobenzene | 2.0 mmol, 445 mg | ClCCS(=O)(=O)C1=CC=C(C=C1)F | C8H8ClFO2S
reactant | DCM EA | C(Cl)Cl.CC(OCC)=O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[2-(4-fluorophenyl)sulfonylethylthio]-N-(2-thienylmethyl)-nicotinamide | 0.84 mmol, 365 mg, 48% | FC1=CC=C(C=C1)S(=O)(=O)CCSC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C19H17FN2O3S3
